US09382254B2
Intermediate 7: 5-Acetylamino-4-carbamoyl-3-methyl-thiophene-2-sulfonyl chloride
Neat ClSO3H (6.7 mL, 100 mmol) is cooled to 0° C. 2-acetylamino-4-methyl-thiophene-3-carboxylic acid amide (1.98 g, 10 mmol) is added in portions over a period of 15 min, and the mixture is stirred at 40° C. for 3 h. The mixture is cooled down to room temperature and poured slowly onto ice cold water. The resulting suspension is washed twice with EtOAc, the combined organic fractions are dried over MgSO4, filtered and evaporated to yield the desired product which is used as such.

reactant | ClSO3H | 100 mmol, 6.7 mL | ClS(=O)(=O)O | ClHO3S
reactant | 2-acetylamino-4-methyl-thiophene-3-carboxylic acid amide | 10 mmol, 1.98 g | C(C)(=O)NC=1SC=C(C1C(=O)N)C | C8H10N2O2S
product | 5-Acetylamino-4-carbamoyl-3-methyl-thiophene-2-sulfonyl chloride | C(C)(=O)NC1=C(C(=C(S1)S(=O)(=O)Cl)C)C(N)=O | C8H9ClN2O4S2
